US06638929B2
4-Chloro-7,8-dimethoxybenzo[g]quinoline-3-carbonitrile
A mixture of 356.2 mg (1.3 mmol) of 7,8-dimethoxy-4-oxo-1,4-dihydrobenzo[g]quinoline-3-carbonitrile in 5 mL of phosphorus oxychloride and 4 drops of DMF is heated at 100-110° C. for 4.5 hours. After cooling, the mixture is concentrated to dryness in vacuo to give a dark residue. The residue is partitioned between methylene chloride and ice-cooled saturated aqueous sodium carbonate solution. The organic layer is washed with cooled brine and dried over sodium sulfate. The organic solvent is passed through a short column of silica gel, and the column is first eluted with additional methylene chloride, then a 99:1 methylene chloride/ethyl acetate soltion. Removal of the solvent yields 187.0 mg (49.4%) of the product as a bright yellow solid, mp>265° C.

reactant | 7,8-dimethoxy-4-oxo-1,4-dihydrobenzo[g]quinoline-3-carbonitrile | 1.3 mmol, 356.2 mg | COC=1C(=CC2=C(C=C3C(C(=CNC3=C2)C#N)=O)C1)OC | C16H12N2O3
reactant | phosphorus oxychloride | 5 mL | P(=O)(Cl)(Cl)Cl | Cl3OP
catalyst | DMF | 4 drops | CN(C)C=O | C3H7NO
product | 4-Chloro-7,8-dimethoxybenzo[g]quinoline-3-carbonitrile | 187.0 mg, 49.4% | ClC1=C(C=NC2=CC3=C(C=C12)C=C(C(=C3)OC)OC)C#N | C16H11ClN2O2
